US05849735
9,10-Dihydro-4H-thieno[2,3-c][1]benzazepine
A stirred solution of 2.0 g of 9,10-dihydro-4H-thieno[2,3-c][1]benzazepin-10-one and lithium aluminum hydride (500 mg) in tetrahydrofuran is refluxed for 4 hours. At the end, reaction mixture is carefully quenched with ice cold water and extracted with chloroform. The organic layer is washed well with water and dried over anhydrous Na2SO4, filtered and concentrated. The product is purified by silica gel column chromatography by eluting it with 30% ethyl acetate:hexane to give 1.2 g of the desired product as a bright yellow solid. Mass Spectrum M+ 202.

reactant | 9,10-dihydro-4H-thieno[2,3-c][1]benzazepin-10-one | 2.0 g | S1C=CC2=C1C(NC1=C(C2)C=CC=C1)=O | C12H9NOS
reactant | lithium aluminum hydride | 500 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-4H-thieno[2,3-c][1]benzazepine | 1.2 g | S1C=CC2=C1CNC1=C(C2)C=CC=C1 | C12H11NS
